US07572808B2
D. Preparation of 6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
The title compound (190 mg, 88% yield) as a yellow foam was prepared from 5-(2-chlorophenyl)-4-(4-chlorophenyl)-2-hydrazinylpyridine (200 mg, 0.61 mmol) in a manner analogous to that in which 8-bromo-7-(4-chlorophenyl)-5-methyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one was prepared. HPLC/MS: retention time=3.83 min, [M+H]+=356.1.

reactant | 5-(2-chlorophenyl)-4-(4-chlorophenyl)-2-hydrazinylpyridine | 0.61 mmol, 200 mg | ClC1=C(C=CC=C1)C=1C(=CC(=NC1)NN)C1=CC=C(C=C1)Cl | C17H13Cl2N3
reactant | 8-bromo-7-(4-chlorophenyl)-5-methyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | BrC=1C=2N(C(=CC1C1=CC=C(C=C1)Cl)C)C(NN2)=O | C13H9BrClN3O
product | 6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 190 mg, 88% yield | ClC1=C(C=CC=C1)C=1C(=CC=2N(C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C18H11Cl2N3O
